US08202873B2
Dissolve 3,5-dimethylpyrazole (0.331 g, 3.44 mmol) in N,N-dimethylformamide (7 mL) and add sodium hydride (0.165 g, 4.13 mmol). After 10 min., cool to 0° C. and add 4-methoxybenzyl chloride (0.654 mL, 4.82 mmol) dropwise. Stir the mixture at 25° C. for 18 hr. then dilute with saturated ammonium chloride. Extract with ethyl acetate 3 times, dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 40:60 hexanes:ethyl acetate), to give 1-(4-methoxybenzyl)-3,5-dimethyl-1H-pyrazole as a colorless oil (0.682 g, 92%). MS (APCI): m/z=217 [M+H].

reactant | 3,5-dimethylpyrazole | 3.44 mmol, 0.331 g | CC1=NNC(=C1)C | C5H8N2
reactant | sodium hydride | 4.13 mmol, 0.165 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 4.82 mmol, 0.654 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(4-methoxybenzyl)-3,5-dimethyl-1H-pyrazole | 0.682 g, 92% | COC1=CC=C(CN2N=C(C=C2C)C)C=C1 | C13H16N2O
